US07981903B2
2,4-difluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (175 mg, 0.254 mmol) was suspended in a mixture of dioxane (10 mL) and aqueous 2.0N NaOH (5 mL) and stirred rapidly under microwave heating (120° C.) for 10 minutes. After cooling, the reaction mixture was diluted with ethyl acetate and washed with saturated sodium chloride. The organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and purified by chromatography on SiO2 to afford 2,4-difluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a pale yellow solid (85 mg, 63% yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.00 (d, J=6.60 Hz, 6H), 2.52-2.61 (m, 4H), 2.66 (d, J=6.23 Hz, 1H), 3.08 (d, J=5.50 Hz, 4H), 3.78 (s, 3H), 6.18 (dd, J=3.67, 1.83 Hz, 1H), 6.45 (dd, J=8.80, 2.57 Hz, 1H), 6.61 (d, J=2.57 Hz, 1H), 6.89 (ddd, J=11.36, 8.80, 2.57 Hz, 1H), 6.93-6.98 (m, 1H), 7.59 (s, 1H), 7.68 (d, J=8.80 Hz, 1H), 8.01 (d, J=1.47 Hz, 1H), 8.15 (s, 1H), 8.56 (d, J=11.73 Hz, 1H), 11.08 (s, 1H), 11.32 (s, 1H). ESIMS (M+H)+=537.

reactant | 2,4-difluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 0.254 mmol, 175 mg | FC1=C(C(=O)N)C(=CC(=C1)F)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C34H36F2N8O4S
reactant | NaOH | 2.0N, 5 mL | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-difluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 85 mg, 63% yield | FC1=C(C(=O)N)C(=CC(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)=NC=C2 | C27H30F2N8O2
